Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine / latex
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac cath with DES x3 ___

 
History of Present Illness:
___ yo man with history of HCV cirrhosis s/p transplant ___,
CAD s/p MI with PCI (___), PVD, COPD/emphysema who
presents for chest pain. 

Patient was in his USOH until about 10 days prior to admission
when he had chest pain that woke him from sleep. This was a
burning chest pain in the ___ his chest. He was not sure 
if
it was acid reflux or cardiac in origin. He sat up and took his
SL nitro which relieved the pain. This continued, worse at 
night,
almost every day for the last 10 days. Each time he had the 
chest
pain, he took nitro which relieved the pain. He called his
cardiologist and was planned for cath on ___. However,
since he was not sure if this was cardiac or dyspepsia, he felt
it was not necessary. However, on the day of presentation, the
pain started to occur more frequently and was more severe. He 
was
in the shower and the pain would not go away until he finished
the shower and could get to the nitro SL. He took a total of 4
tabs SL nitro. Given this, he called EMS and was brought to ___,
where he received 162 mg aspirin (had already taken 162 aspirin
at home). He was started on heparin gtt with bolus and
transferred to ___ given that he receives all his care here.

He describes the pain as a ___ burning chest pain in the ___ his chest, nonradiating, not associated with diaphoresis,
nausea, or SOB. Pain is similar in quality to his MI in ___ but
not as severe; that was a ___. Currently, it has been coming 
on
every 30 minutes or so and lasts about ___ seconds then
resolves spontaneously or with nitro. He has not had nitro since
presenting to medical care as the chest pain has not recurred 
for
longer than 30 seconds

In the ED, initial VS were:  97.2 87 123/73 18 95% RA 
 
Exam notable for:  none reported in ED
Labs showed:  Cr 1.5, trops neg
Imaging showed: 
CXR: No evidence of an acute cardiopulmonary abnormality. 

 
Past Medical History:
- Child ___ Class A Cirrhosis due to  hepatitis C genome 1 
status post 3 months SVR (tx/simprevir and sofosbuvir) in ___. 
Decompensated with HCC.
- EGD in ___ with no esophageal varices
- HCC: on ___ lesion in segment VIII, which met OPTN 5B criteria 
and underwent radiofrequency ablation on ___. Also has 
small subcentimeter nodules, which need follow up imagin in 
___.
- COPD/emphysema. Uses inhalers and is not on oxygen. Recent 
PFTs done at ___ in ___.
- CKD grade II
- s/p CVA s/o residual focal weakness
- ?seizure not recurrent
- Drug dependence. ___ years history of incarceration in 
Federal Prison until ___. He had negative annual PPDs at 
prison
- Peripheral vascular disease. Aorta and iliac arteries. Given 
claudication as well as positive noninvasive tests at ___, no 
leg ulcers or chronic edema
- Hypertension
- Dyslipidemia
- Compression fractures in T9, T12 on his chest CT in ___ s/p 
biopsy, not on chronic pain medications
- CAD s/p MI and s/p 2x stent (LAD, RCA ___ ___, 2x stents 
(LAD, RCA) in ___ in ___ and 3 DES (mid RCA, mid and 
apical LAD, ___
- Neuropathy
- Upper GI bleed while incarcerated

PAST SURGICAL HISTORY
- left ACL repair
- removal of a benign tumor near his clavicle in ___, which 
resulted in nerve damage. done at ___. Then 
underwent a nerve transplant in his right arm in ___ at the 
___. He has had varying success in 
reinnervation of his biceps.
 
Social History:
___
Family History:
Per OMR, Negative for liver cancer or liver disease. His mother 
had colon cancer at age ___. His father and grandfather both had 
prostate cancer.
 
Physical Exam:
ADMISSION EXAM
==============
VS:  97.8 165/87 77 16 95 RA 
GENERAL: NAD, well appearing middle aged man
HEENT: AT/NC, PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles. L chest wall port c/d/i
ABDOMEN: nondistended, nontender in all quadrants 
EXTREMITIES: no edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE EXAM
==============
VS:  ___ 0809 Temp: 99.2 PO BP: 128/74 R Lying HR: 69 RR: 
18
O2 sat: 96% O2 delivery: Ra 
GENERAL: NAD, well appearing middle aged man
HEENT: AT/NC, PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles. L chest wall port c/d/i
ABDOMEN: nondistended, nontender in all quadrants 
EXTREMITIES: no ___ edema. L femoral cath site c/d/i
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:45PM BLOOD WBC-12.6* RBC-5.08 Hgb-13.9 Hct-41.9 
MCV-83 MCH-27.4 MCHC-33.2 RDW-13.8 RDWSD-40.5 Plt ___
___ 10:45PM BLOOD Glucose-121* UreaN-30* Creat-1.5* Na-142 
K-4.3 Cl-105 HCO3-23 AnGap-14
___ 10:45PM BLOOD cTropnT-<0.01
___ 05:16AM BLOOD CK-MB-1 cTropnT-<0.01
___ 10:45PM BLOOD Calcium-9.5 Phos-2.9 Mg-1.9

STUDIES
=======

CARDIAC CATH REPORT ___
Pending

___
TTE: The left atrium and right atrium are normal in cavity size.
The estimated right atrial pressure is ___ mmHg. Left 
ventricular
wall thickness, cavity size, and global systolic function are
normal (LVEF>55%). Doppler parameters are most consistent with
Grade I (mild) left ventricular diastolic dysfunction. Right
ventricular chamber size and free wall motion are normal. The
aortic valve leaflets (3) are mildly thickened but aortic
stenosis is not present. Mild (1+) aortic regurgitation is seen.
The mitral valve leaflets are mildly thickened. Trivial mitral
regurgitation is seen. There is a trivial/physiologic 
pericardial
effusion. 

Compared with the prior study (images reviewed) of ___,
there is no significant change. There was concern for apical
hypokinesis on the prior study, however the image quality was
poor on that study.  

___ CXR
No evidence of an acute cardiopulmonary abnormality. 

DISCHAGE LABS
=============

___ 05:22AM BLOOD WBC-9.5 RBC-4.58* Hgb-12.6* Hct-38.0* 
MCV-83 MCH-27.5 MCHC-33.2 RDW-13.9 RDWSD-41.7 Plt ___
___ 05:22AM BLOOD Glucose-127* UreaN-23* Creat-1.2 Na-142 
K-4.0 Cl-107 HCO3-22 AnGap-13
___ 05:22AM BLOOD Calcium-8.4 Phos-2.7 Mg-1.___ yo man with history of HCV cirrhosis s/p liver transplant 
___, CAD s/p ___ ___, RCA ISR s/p DES ___, and p/m 
RCA ___ to transplant surgery, hx PVD, who presented with 
unstable angina. He reported several days of worsening chest 
discomfort reminiscent of prior MI, without EKG changes or 
troponin elevation. He was taken to cath on ___ showing RCA ISR 
s/p DES and LAD ISR s/p DES and new DES to apical LAD. He was 
treated with heparin gtt, ASA, intraprocedural cangelor, Plavix 
load and maintence, metoprolol. He did well postprocedurally. 

#PUMP: EF 50-55%; grade I LV diastolic dysfunction, 1+ AR, no MR
#CORONARIES: CAD s/p LAD/RCA PCI ___, LAD ISR s/p DES ___ RCA 
ISR s/p DES ___ and ___ s/p ___ ___ preop liver. Type II 
NSTEMI post xplant 16 from dLAD
#RHYTHM: NSR

Other chronic issues: 
___ on CKD: Mild ___ on admission resolved without 
intervention, likely mild prerenal due to poor PO intake. His 
CKD is felt to be due to metabolic syndrome and CNI toxicity. 

#HCV cirrhosis c/b HCC, s/p transplant ___. Transplant team was 
aware of his admission. He continued his home tacrolimus 1.5mg 
daily with target level ___ mycophenolate sodium ___ 360 BID. 

#HTN: Home Metoprolol and imdur. 
#Insomnia: Home TraZODone 100mg; HydrOXYzine 50 mg PRN
#PVD: Aspirin, plavix, and atorvastatin as above. 
#Diarrhea: chronic and known to be ___ cellcept. Continued 
loperamide. 
#COPD: Home tioptropium. Advair instead of symbicort in house. 
#Neuropathy: Home gabapentin 300 mg PO BID 
#Osteoporosis: home Ca2+/vitamin D combo is NF; On denosumab as 
well as oupt (next due ___
#H/o HCV: genome ___ s/p simprevir and sofosbuvir x3 months with 
SVR

Transitional issues: 
[] Antiplatelet agent: ASA 81mg and Plavix 75mg 
[] Please perform groin cath side check (R femoral) at PCP 
appointment on ___, assess for hematoma, femoral/distal pulses
[] f/u Chem 10 at next appointment to ensure Cr has remained 
stable. 1.2 at time of discharge. 
[] Resume regular follow up with hepatology for management of 
immunosuppression
[] Outpatient workup of mild anemia, HgB 12.6 in house, has been 
intermittently ___ range since transplant 
[] f/u pending blood cultures from ED though there was no real 
suspicion of infection this admission. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Terazosin 10 mg PO QHS 
2. Gabapentin 300 mg PO BID 
3. LOPERamide 2 mg PO DAILY 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. HydrOXYzine 50 mg PO QHS 
6. Metoprolol Succinate XL 50 mg PO QAM 
7. Denosumab (Prolia) 60 mg SC Q6M 
8. Atorvastatin 80 mg PO QPM 
9. Mycophenolate Sodium ___ 360 mg PO BID 
10. Tacrolimus 1.5 mg PO Q12H 
11. Multivitamins 1 TAB PO DAILY 
12. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
13. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN as needed for chest 
pain  
14. budesonide-formoterol 80-4.5 mcg/actuation inhalation BID 
15. Sodium Polystyrene Sulfonate 30 gm PO ASDIR 
16. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-125 
mg-unit oral DAILY 
17. Aspirin 81 mg PO DAILY 
18. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
19. TraZODone 100 mg PO QHS:PRN insomnia 
20. Metoprolol Succinate XL 100 mg PO QHS 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
2.  albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  budesonide-formoterol 80-4.5 mcg/actuation inhalation BID  
6.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-125 
mg-unit oral DAILY  
7.  Denosumab (Prolia) 60 mg SC Q6M  
8.  Gabapentin 300 mg PO BID  
9.  HydrOXYzine 50 mg PO QHS  
10.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY  
11.  LOPERamide 2 mg PO DAILY  
12.  Metoprolol Succinate XL 50 mg PO DAILY  
13.  Metoprolol Succinate XL 100 mg PO QHS  
14.  Multivitamins 1 TAB PO DAILY  
15.  Mycophenolate Sodium ___ 360 mg PO BID  
16.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN as needed for chest 
pain   
17.  Sodium Polystyrene Sulfonate 30 gm PO ASDIR  
18.  Tacrolimus 1.5 mg PO Q12H  
19.  Terazosin 10 mg PO QHS  
20.  Tiotropium Bromide 1 CAP IH DAILY  
21.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable Angina, status post drug eluting stents x3 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you here at ___. 

Why you were here: 
- You were having chest pain that was reminiscent of your prior 
heart attacks. 

What we did: 
- We did a cardiac catheterization and found that 2 of your 
stents had become blocked off. These were opened up with new 
stents in the RCA and LAD. We also placed a third stent at the 
apex of the heart.

What to do when you go home: 
- It is important to take both aspirin and Plavix every day 
without missing any doses. If you miss any doses your stent 
could clot off and cause another heart attack. 
- Follow up with Dr. ___ your primary care doctor. 
- Please weigh yourself every day and call your doctor if you 
gain more than 3 lbs. 
- Return to the ER or call your doctor if you notice recurrent 
chest pain, palpitations, lightheadedness, leg swelling, or any 
other symptoms that concern you.  

We wish you the best! 

Sincerely, 
Your Care Team 
 
Followup Instructions:
___